US06048868
Potassium tert-butoxide (665 mg, 5.9 mmol) is added to a solution of 9-methoxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinolizine-4-thione (500 mg, 1.6 mmol) in DMF (42 ml). After placing the reaction assembly under vacuum, the mixture is stirred under normal oxygen pressure overnight. Water (15 ml) and concentrated hydrochloric acid (3 ml) are then successively added. The solution is stored in a refrigerator for 4 hours. After filtration, 9-methoxy-1-ethyl-2,3,4,12-tetrahydroindolo[2,3-a]quinolizine-4-thione is obtained (150 mg, Y=30%).

reactant | Potassium tert-butoxide | 5.9 mmol, 665 mg | CC(C)([O-])C.[K+]
reactant | 9-methoxy-1-ethyl-2,3,4,6,7,12-hexahydroindolo[2,3-a]quinolizine-4-thione | 1.6 mmol, 500 mg | COC=1C=C2C(=CC1)NC1=C2CCN2C(CCC(=C12)CC)=S | C18H20N2OS
reactant | Water | 15 ml | O | H2O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | DMF | 42 ml | CN(C)C=O | C3H7NO
product | 9-methoxy-1-ethyl-2,3,4,12-tetrahydroindolo[2,3-a]quinolizine-4-thione | COC=1C=C2C(=CC1)NC1=C2C=CN2C(CCC(=C12)CC)=S | C18H18N2OS
